US07141596B2
Step 1. Synthesis (3-bromo-4-iodophenyl)methanol
To a solution of methyl 3-bromo-4-iodobenzoate (110.0 mg, 0.322 mmol) in tetrahydrofuran (2 mL) was added 2 M lithium tetrahydroborate in tetrahydrofuran (0.161 mL) at room temperature. After stirring for 36 h, the reaction was quenched with sat. ammonium chloride solution, diluted with diethyl ether. The aqueous phase was extract with diethyl ether once. The combined organic solutions were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified with silica gel chromatography (5% to 20% ethyl acetate/hexane) to give a white solid (66 mg, 65%). 1H NMR (400 MHz, CDCl3): δ 7.82 (d, J=8.2 Hz, 1H), 7.63 (m, 1H), 6.98 (m, 1H), 4.63 (s, 2H). LCMS found for C7H5BrI (M+H−H2O)+: m/z=295, 297.

reactant | methyl 3-bromo-4-iodobenzoate | 0.322 mmol, 110.0 mg | BrC=1C=C(C(=O)OC)C=CC1I | C8H6BrIO2
reactant | lithium tetrahydroborate | 2 M | [BH4-].[Li+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.161 mL | O1CCCC1 | C4H8O
product | (3-bromo-4-iodophenyl)methanol | 66 mg, 65% | BrC=1C=C(C=CC1I)CO | C7H6BrIO
